US04950674
α,α-Diphenyl-4-piperidinemethanol
A mixture of 35.8 g (0.1 mole) of α,α-diphenyl-1-(phenylmethyl)-4-piperidinemethanol and 5% palladium on carbon catalyst in 500 ml of absolute ethanol was hydrogenated at 60° C. in a Parr apparatus for 3 days. The mixture was filtered through Celite® and the filtrate was concentrated to give a solid residue. The solid was triturated with petroleum ether (30°-60° C.), collected by filtration and dried to give 26.7 g of title compound as a white solid. An analytical sample was obtained by recrystallization from 2-propanol-isopropyl ether, mp 160°-161° C.

reactant | α,α-diphenyl-1-(phenylmethyl)-4-piperidinemethanol | 0.1 mole, 35.8 g | C1(=CC=CC=C1)C(O)(C1CCN(CC1)CC1=CC=CC=C1)C1=CC=CC=C1 | C25H27NO
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | α,α-Diphenyl-4-piperidinemethanol | 26.7 g | C1(=CC=CC=C1)C(O)(C1CCNCC1)C1=CC=CC=C1 | C18H21NO
